US05238949
A mixture of 5-aminomethyl-2-chloropyridine (14.25 g), mesitaldehyde (14.8 g) and toluene (100 ml) was heated under reflux for 3 hours. The water which was formed during the reaction was trapped by Dean and Stark constant water separator. The toluene was distilled off from the mixture under reduced pressure, so as to obtain N-(2,4,6-trimethylbenzylidene)-2-chloro-5-pyridylmethylamine (27 g). m.p. 47°-48° C.

reactant | 5-aminomethyl-2-chloropyridine | 14.25 g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
reactant | mesitaldehyde | 14.8 g | C1(=C(C(=CC(=C1)C)C)C=O)C | C10H12O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(2,4,6-trimethylbenzylidene)-2-chloro-5-pyridylmethylamine | 27 g | CC1=C(C=NCC=2C=CC(=NC2)Cl)C(=CC(=C1)C)C | C16H17ClN2
